US04413126
Eight-tenths mole (157.6 g.) of 1,8-naphthalimide, 260 g. (1.15 m.) of 4-chloro-3-nitrobenzotrifluoride, 64 g. (0.46 m.) of anhydrous potassium carbonate, about 4 g. (0.024 m.) of potassium iodide, and 2400 ml. of dry N,N-dimethylformamide were allowed to reflux under a nitrogen atmosphere for about 8 hours. The reaction mixture was allowed to cool to room temperature and the reaction vessel was then chilled in an ice-bath. The resulting precipitate was filtered, washed with water, and dried in vacuo to yield crude 2-[2-nitro-4-(trifluoromethyl)phenyl]-1H-benz[de]isoquinoline-1,3-(2H)-dione.

reactant | 1,8-naphthalimide | 157.6 g | C=1C=C2C=CC=C3C2=C(C1)C(=O)NC3=O | C12H7NO2
reactant | 4-chloro-3-nitrobenzotrifluoride | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[2-nitro-4-(trifluoromethyl)phenyl]-1H-benz[de]isoquinoline-1,3-(2H)-dione | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C19H9F3N2O4
